US06150373
A dry-ice/acetone solution of 880 mg (4.6 mmol) of 3-(1-aminomethyl-1-ethylpropyl)-aniline in 30 ml of tetrahydrofuran was treated dropwise with a solution of 850 mg (4.6 mmol) of di-tert-butyl dicarbonate in 30 ml of tetrahydrofuran. After 1 hour the cooling was removed. After a further 2 hours 40 ml of saturated aqueous ammonium chloride were added. The organic phase was dried over magnesium sulfate, filtered and evaporated. The product was purified by flash chromatography on silica gel using diethyl ether/isohexane in a ratio 2:3 as eluent. Product-containing fractions were evaporated to afford 950 mg (71%) of (2-(3-aminophenyl)-2-ethyl-butyl)-carbamic acid tert-butyl ester as a pale orange oil. [Mass spectrum (ESI) MH+ =293].

reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 3-(1-aminomethyl-1-ethylpropyl)-aniline | 4.6 mmol, 880 mg | NCC(CC)(CC)C=1C=C(N)C=CC1 | C12H20N2
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 850 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2-(3-aminophenyl)-2-ethyl-butyl)-carbamic acid tert-butyl ester | 950 mg, 71% | C(C)(C)(C)OC(NCC(CC)(CC)C1=CC(=CC=C1)N)=O | C17H28N2O2
